* Coriolis Structural SPICE Driver
* Generated on Apr 13, 2025, 01:57
* Cell/Subckt "expmob1".
* 
* INTERF vss
* INTERF vdd
* INTERF outputs[7]
* INTERF outputs[6]
* INTERF outputs[5]
* INTERF outputs[4]
* INTERF outputs[3]
* INTERF outputs[2]
* INTERF outputs[1]
* INTERF inputs[7]
* INTERF inputs[6]
* INTERF inputs[5]
* INTERF inputs[4]
* INTERF inputs[3]
* INTERF inputs[2]
* INTERF inputs[1]
* INTERF inputs[0]

* Terminal models (aka standard cells) used througout all the hierarchy.
.include xor2_x0.spi
.include nexor2_x0.spi
.include inv_x0.spi

* Non-terminal models (part of the user's design hierarchy).

.subckt expmob1 0 1 2 3 4 5 6 7 8 9 10 11 12 13 14 15 16
* NET     0 = vss
* NET     1 = vdd
* NET     2 = outputs[7]
* NET     3 = outputs[6]
* NET     4 = outputs[5]
* NET     5 = outputs[4]
* NET     6 = outputs[3]
* NET     7 = outputs[2]
* NET     8 = outputs[1]
* NET     9 = inputs[7]
* NET    10 = inputs[6]
* NET    11 = inputs[5]
* NET    12 = inputs[4]
* NET    13 = inputs[3]
* NET    14 = inputs[2]
* NET    15 = inputs[1]
* NET    16 = inputs[0]
* NET    17 = genblk1_1_si_outputs_7
* NET    18 = genblk1_1_si_outputs_3
* NET    19 = genblk1_1_si_inputs_7
* NET    20 = genblk1_1_si_inputs_6
* NET    21 = genblk1_1_si_inputs_5
* NET    22 = abc_140_new_n27
* NET    23 = abc_140_new_n26
* NET    24 = abc_140_new_n24
* NET    25 = abc_140_new_n22
* NET    26 = abc_140_new_n19
* NET    27 = abc_140_new_n16

xsubckt_3_xor2_x0 1 0 10 12 26 xor2_x0
xsubckt_4_nexor2_x0 1 0 26 27 3 nexor2_x0
xsubckt_7_nexor2_x0 1 0 25 27 6 nexor2_x0
xsubckt_8_nexor2_x0 1 0 11 15 24 nexor2_x0
xsubckt_10_nexor2_x0 1 0 9 13 23 nexor2_x0
xsubckt_12_nexor2_x0 1 0 22 3 2 nexor2_x0
xsubckt_11_nexor2_x0 1 0 23 24 22 nexor2_x0
xsubckt_0_nexor2_x0 1 0 16 14 27 nexor2_x0
xsubckt_1_inv_x0 1 0 27 7 inv_x0
xsubckt_2_xor2_x0 1 0 12 16 5 xor2_x0
xsubckt_5_xor2_x0 1 0 15 16 8 xor2_x0
xsubckt_6_xor2_x0 1 0 15 13 25 xor2_x0
xsubckt_9_nexor2_x0 1 0 24 5 4 nexor2_x0
.ends expmob1
